US04225521
To a solution of 7.1 g of 1-methylethyl 2.2-dichloro-2[(1-methylethoxy)phenylphosphinyl]acetate in 150 ml of ether was added 14 ml of a solution of 1.6 M n-butyl lithium in hexane at -70° over 15 minutes. The solution was then allowed to warm to -10° before adding 60 ml of 0.5 M aqueous HCl solution at -10° to 0°. The phases were separated and the organic phase washed with water then 5% NaHCO3 solution. The solution was then dried and stripped to give 5.0 g of 1-methylethyl 2-chloro-2[(1-methylethoxy)phenylphosphinyl]acetate as a light yellow oil ND25 1.5057.

reactant | 1-methylethyl 2.2-dichloro-2[(1-methylethoxy)phenylphosphinyl]acetate | 7.1 g | ClC(C(=O)OC(C)C)(P(=O)(C1=CC=CC=C1)OC(C)C)Cl | C14H19Cl2O4P
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | HCl | 0.5 M, 60 ml | Cl | ClH
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 1-methylethyl 2-chloro-2[(1-methylethoxy)phenylphosphinyl]acetate | 5.0 g | ClC(C(=O)OC(C)C)P(=O)(C1=CC=CC=C1)OC(C)C | C14H20ClO4P
